US06503900B2
Following the method of Example 5 isatoic anhydride (61.3 mmol) was allowed to react with L-alanine ethyl ester HCl (73.6 mmol) in pyridine (200 mL) to give 29.7 mmol of (3S)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione as a light, brown solid.

reactant | isatoic anhydride | 61.3 mmol | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | L-alanine ethyl ester HCl | 73.6 mmol | Cl.C(C)OC([C@@H](N)C)=O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | (3S)-3-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 29.7 mmol | C[C@H]1C(NC2=C(C(N1)=O)C=CC=C2)=O | C10H10N2O2
